US07648987B2
1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine
20 M of NH3 in H2O(10 mL) was added to a suspension of 1,3-Dibromo-8-chloro-imidazo[1,5-a]pyrazine (1.726 g, 0.007425 mol) in 2-Butanol (7.49 mL, 0.0817 mol). The mixture was heated in an oil bath set at 90° C. overnight. The reaction mixture was concentrated in vacuo and purified by flash column chromatography using 1→6% MeOH in DCM to obtain the title compound as a yellow solid. MS (ES+): m/z 294.83 (85) [MH+]. HPLC: tR=1.58 min (Open Lynx polar—5 min). 1H NMR (400 MHz, CD3OD):δ=7.10 (d, J=5.05 Hz, 1H), 7.43 (d, J=5.05 Hz, 1H)

reactant | NH3 | 20 M | N | H3N
reactant | 1,3-Dibromo-8-chloro-imidazo[1,5-a]pyrazine | 0.007425 mol, 1.726 g | BrC=1N=C(N2C1C(=NC=C2)Cl)Br | C6H2Br2ClN3
reactant | 2-Butanol | 0.0817 mol, 7.49 mL | CC(CC)O | C4H10O
solvent | H2O | 10 mL | O | H2O
product | 1,3-Dibromo-imidazo[1,5-a]pyrazin-8-ylamine | BrC=1N=C(N2C1C(=NC=C2)N)Br | C6H4Br2N4
